US07473783B2
To a stirring suspension of 3-(4-methoxyphenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine (100 mg, 0.41 mmol) in CH2Cl2 (2 mL) at −78° C. was added a 1 M solution of BBr3 in CH2Cl2 (2.1 mL, 2.1 mmol) dropwise. The reaction mixture was slowly warmed up to room temperature overnight, then it was quenched with water, and the reaction mixture was neutralized to pH 6 with 1 N aqueous NaOH. The resulting precipitate was filtered, washed with water, and dried in vacuo to afford 70 mg (74% yield) of 3-(4-hydroxyphenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine as an off-white solid. 1H-NMR (d6-DMSO) δ: 9.8 (broad s, 1H), 7.57 (broad s, 2H), 7.42 (d, 2H), 6.85 (d, 2H); HPLC/MS m/z: 233.0 [MH]+.

reactant | 3-(4-methoxyphenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 0.41 mmol, 100 mg | COC1=CC=C(C=C1)C1=NNC=2N=C(SC21)N | C11H10N4OS
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2.1 mmol, 2.1 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-hydroxyphenyl)-1H-pyrazolo[3,4-d]thiazol-5-ylamine | 70 mg, 74% yield | OC1=CC=C(C=C1)C1=NNC=2N=C(SC21)N | C10H8N4OS
